US07186729B2
Step 3: 3-[Carboxymethyl-(4-chloro-benzyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of 3-[(4-chloro-benzyl)-methoxycarbonylmethyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.5 g, 1.31 mmol) in methanol (4.00 mL) and 1.0 N NaOH (aqueous) (4.00 mL) was heated to reflux at 80° C. for 2.5 h. The reaction mixture was concentrated, acidified to pH 5.0 using 1.0 N HCl and extracted with dichloromethane (3×). The product was used for the next step without further purification. ESI-MS m/z: 369(M+1), UV retention time: 1.85 min.

reactant | 3-[(4-chloro-benzyl)-methoxycarbonylmethyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.31 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC(=O)OC)CC1=CC=C(C=C1)Cl | C19H27ClN2O4
solvent | methanol | 4.00 mL | CO | CH4O
solvent | NaOH | 1.0 N, 4.00 mL | [OH-].[Na+]
product | 3-[Carboxymethyl-(4-chloro-benzyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC1=CC=C(C=C1)Cl)CC(=O)O | C18H25ClN2O4
